data/oMe_Silver.jsonl
{"reaction_id": "NR-314_1-C(C)(C)C_2-CCCC(C)C_3-C_4-c1ccccc1","level": "medium","name": "Upjohn Dihydroxylation","reactants_smiles": ["C(C(C)(C)C)(CCCC(C)C)=C(C)(c1ccccc1)","C[N+]1(CCOCC1)[O-]"],"products_smiles": ["C(O)(C(C)(C)C)(CCCC(C)C)C(O)(C)(c1ccccc1)"],"conditions": "cat. OsO4, NMO, H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(C)(C)C)(CCCC(C)C)O[Os](=O)(=O)OC1(C)(c1ccccc1)","step_weight": 0,"rationale": "The alkene’s π electrons coordinate to electrophilic Os(VIII) in OsO4, forming a cyclic osmate ester via concerted [3+2] cycloaddition, favored by strong osmium–oxygen π-acceptor interactions and minimal steric hindrance in the transition state."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O)(C(C)(C)C)(CCCC(C)C)C(O)(C)(c1ccccc1)","step_weight": 0,"rationale": "Water attacks the electrophilic osmium-bound carbons, cleaving the Os–O–C bonds; the good leaving ability of the osmium species and relief of ring strain drive formation of the cis-diol."},{"step": 3,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "O=[Os](=O)(=O)=O","step_weight": 0,"rationale": "NMO oxidizes Os(VI) back to Os(VIII) via single-electron transfer, driven by N–O bond cleavage and the high thermodynamic stability of the reoxidized osmium species, allowing catalytic turnover."}],"description": "The alkene undergoes syn-dihydroxylation via OsO4-mediated [3+2] cycloaddition to form a cyclic osmate ester. Hydrolysis releases the cis-diol, and NMO reoxidizes Os(VI) to Os(VIII), enabling catalytic turnover under mild aqueous conditions."}
{"reaction_id": "NR-244_1-C(C)C_4-C","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(C(C)C)(=C)N1CCCC1","C(C)Br"],"products_smiles": ["C(=O)(C(C)C)CC(C)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(C)C)(=[N+]1CCCC1)CC(C)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)C)(N1CCCC1)(CCC)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)C)([NH+]1CCCC1)(CCC)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)C)(=[OH+])CC(C)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C)C)CC(C)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
